US05712274
4-(4-Chlorophenyl)-2-ethyl-9-methyl-6H-thieno[3,2-f][1,2,4]triazolo[4,3-a][1,4]diazepine (6 g) is dissolved in diethyl carbonate (100 ml) under a nitrogen stream, and 60% sodium hydride (1.2 g) is added with stirring at room temperature. The mixture is refluxed under heating for 1 hour and cooled to 50° C. with ice water. Ethyl bromobutyrate (4.3 ml) is added. After stirring at 100° C. for 2 hours, the reaction mixture is poured into ice water (1 l) and extracted with ethyl acetate. The organic layer is washed with saturated brine, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue is purified by silica gel column chromatography (ethyl acetate:methanol=100:l) and crystallized from isopropyl ether to give 3.9 g of (±)-ethyl 4-(4-(4-chlorophenyl)-6-ethoxycarbonyl-2-ethyl-9-methyl-6H-thieno[3,2-f][1,2,4]triazolo[4,3-a][1,4]diazepin-6-yl)butyrate as white powdery crystals. (±)-Ethyl 4-(4-(4-chlorophenyl)-6-ethoxycarbonyl-2-ethyl-9-methyl-6H-thieno[3,2-f][1,2,4]-triazolo[4,3-a][1,4]diazepin-6-yl)butyrate (3.5 g) is dissolved in a mixture of ethanol (180 ml) and water (60 ml), and barium hydroxide 8 hydrate (8.4 g) is added. The mixture is refluxed under heating for 4 hours. After the completion of the reaction, ethanol is distilled away under reduced pressure and adjusted to pH 1 with 1N hydrochloric acid. The mixture is stirred for 30 minutes and adjusted to pH 4 with a saturated aqueous solution of sodium hydrogencarbonate to give 1.1 g of (±)-4-(4-(4-chlorophenyl)-2-ethyl-9-methyl-6H-thieno[3,2-f][1,2,4]triazolo[4,3-a][1,4]diazepin-6-yl)butyric acid as white powdery crystals, melting point 185°-187° C.

reactant | 4-(4-Chlorophenyl)-2-ethyl-9-methyl-6H-thieno[3,2-f][1,2,4]triazolo[4,3-a][1,4]diazepine | 6 g | ClC1=CC=C(C=C1)C1=NCC=2N(C3=C1C=C(S3)CC)C(=NN2)C | C17H15ClN4S
reactant | sodium hydride | 1.2 g | [H-].[Na+]
reactant | Ethyl bromobutyrate | 4.3 ml | BrC(C(=O)OCC)CC | C6H11BrO2
solvent | diethyl carbonate | 100 ml | C(OCC)(OCC)=O | C5H10O3
product | (±)-ethyl 4-(4-(4-chlorophenyl)-6-ethoxycarbonyl-2-ethyl-9-methyl-6H-thieno[3,2-f][1,2,4]triazolo[4,3-a][1,4]diazepin-6-yl)butyrate | 3.9 g | ClC1=CC=C(C=C1)C1=NC(C=2N(C3=C1C=C(S3)CC)C(=NN2)C)(C(=O)OCC)CCCC(=O)OCC | C26H29ClN4O4S
